US04131674
A mixture of 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one (1.56 g.) and n-butyl isocyanate (0.99 g.) in anhydrous acetonitrile (30 cc.) is heated at the reflux temperature for 2 hours. The solution obtained is treated with decolourising charcoal at the reflux temperature, filtered hot, after which it is cooled to a temperature of about 20° C. The product which crystallises is filtered off and washed with acetonitrile (4 cc.). After drying, 2-(7-chloro-1,8 naphtyridin-2-yl)-3-n-butylaminocarbonyloxy-isoindolin-1-one (0.96 g.), melting at 152° C. and then at 174° C., is obtained.

reactant | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-isoindolin-1-one | 1.56 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1O)=O | C16H10ClN3O2
reactant | n-butyl isocyanate | 0.99 g | C(CCC)N=C=O | C5H9NO
reactant | charcoal | C | CH4
solvent | acetonitrile | 30 cc | C(C)#N | C2H3N
product | 2-(7-chloro-1,8 naphtyridin-2-yl)-3-n-butylaminocarbonyloxy-isoindolin-1-one | 0.96 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OC(=O)NCCCC)=O | C21H19ClN4O3
